US05130119
(b) 3-[N-(4-Fluoro-2-trifluoromethylphenyl)sulfamoyl]-benzenesulfonic acid-[2-hydroxy-2-(2,2-dimethyl-1,3-dioxolan-4-yl)-N-methylethylamide]
8.36 g (20 mmol) of 3-[N-(4-fluoro-2-trifluoromethylphenyl)sulfamoyl]-benzenesulfonic acid chloride is dissolved in 40 ml of tetrahydrofuran, 2.52 g (25 mmol) of triethylamine and 4.03 (25 mmol) of 2-hydroxy-2-(2,2-dimethyl-1,3-dioxolan-4-yl)-N-methylethylamine are added and stirred for 3 hours at 45° C. The reaction mixture is then concentrated by evaporation under reduced pressure, the residue is extracted with ethyl acetate and the extract is chromatographed on silica gel 60 (Merck) with ethyl acetate/hexane. 9.35 g (16.8 mmol)=84% of the theoretical yield is obtained as an amorphous solid.

reactant | 3-[N-(4-fluoro-2-trifluoromethylphenyl)sulfamoyl]-benzenesulfonic acid chloride | 20 mmol, 8.36 g | FC1=CC(=C(C=C1)NS(=O)(=O)C=1C=C(C=CC1)S(=O)(=O)Cl)C(F)(F)F | C13H8ClF4NO4S2
reactant | triethylamine | 25 mmol, 2.52 g | C(C)N(CC)CC | C6H15N
reactant | 2-hydroxy-2-(2,2-dimethyl-1,3-dioxolan-4-yl)-N-methylethylamine | OC(CNC)C1OC(OC1)(C)C | C8H17NO3
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
product | 3-[N-(4-Fluoro-2-trifluoromethylphenyl)sulfamoyl]-benzenesulfonic acid-[2-hydroxy-2-(2,2-dimethyl-1,3-dioxolan-4-yl)-N-methylethylamide] | OC(CN(S(=O)(=O)C1=CC(=CC=C1)S(NC1=C(C=C(C=C1)F)C(F)(F)F)(=O)=O)C)C1OC(OC1)(C)C | C21H24F4N2O7S2
